US04551529
To 60 ml of a solution containing approximately 450 mg of guanine-N7 -oxide sodium salt was added 1.0M acetic acid to pH 7.9. The white precipitate that formed was collected and dried to yield 276 mg partially crystalline neutral guanine-N7 -oxide. Additional 1.0M acetic acid was added to the mother liquor to a final pH of 5.9. After standing overnight at 5° C., an additional 46 mg of neutral guanine-N7 -oxide precipitated as a white crystalline solid.

reactant | guanine-N7 -oxide sodium salt | approximately 450 mg | [Na].N1=C(N)N=C2N=C[N+](=C2C1=O)[O-]
solvent | acetic acid | 1.0M | C(C)(=O)O | C2H4O2
product | guanine-N7 -oxide | N1=C(N)N=C2N=C[N+](=C2C1=O)[O-] | C5H3N5O2
